US08304419B2
Step E: N-({4-chloro-3-[(3-chloro-5-cyanophenyl)oxy]-2-fluorophenyl}methyl)-2,4-dimethyl-1H-imidazole-5-carboxamide
HATU (365 mg, 0.96 mmol) was added to a solution of 3-{[3-(aminomethyl)-6-chloro-2-fluorophenyl]oxy}-5-chlorobenzonitrile (99 mg, 0.32 mmol), 5-(acetylamino)-1H-indole-2-carboxylic acid (45 mg, 0.32 mmol) and diisopropylethylamine (167 uL, 0.96 mmol) in DMF (2 mL). The reaction mixture was stirred at RT overnight and was extracted with ethyl acetate and water. The organic layer was washed with brine, dried over sodium sulfate and concentrated. The residue was purified by column chromatography (0-5% 2M NH3 solution of MeOH in DCM) and preparative TLC (5% 2M NH3 solution of MeOH in DCM) to afford the title compound (3.8 mg) as a white solid. 1H NMR (400 MHz, CDCl3-d) δ ppm 8.82 (s, 1H) 7.53 (s, 1H) 7.30-7.38 (m, 2H) 7.21-7.26 (m, 1H) 7.13 (s, 1H) 7.01 (s, 1H) 4.61 (d, J=6.41 Hz, 2H) 2.54 (s, 3H) 2.35 (s, 3H). LCMS: m/z 433 (M+1).

reactant | HATU | 0.96 mmol, 365 mg | CN(C)C(=[N+](C)C)ON1C2=C(C=CC=N2)N=N1.F[P-](F)(F)(F)(F)F
reactant | 3-{[3-(aminomethyl)-6-chloro-2-fluorophenyl]oxy}-5-chlorobenzonitrile | 0.32 mmol, 99 mg | NCC=1C(=C(C(=CC1)Cl)OC=1C=C(C#N)C=C(C1)Cl)F | C14H9Cl2FN2O
reactant | 5-(acetylamino)-1H-indole-2-carboxylic acid | 0.32 mmol, 45 mg | C(C)(=O)NC=1C=C2C=C(NC2=CC1)C(=O)O | C11H10N2O3
reactant | diisopropylethylamine | 0.96 mmol, 167 uL | C(C)(C)N(CC)C(C)C | C8H19N
solvent | DMF | 2 mL | CN(C)C=O | C3H7NO
product | N-({4-chloro-3-[(3-chloro-5-cyanophenyl)oxy]-2-fluorophenyl}methyl)-2,4-dimethyl-1H-imidazole-5-carboxamide | 3.8 mg | ClC1=C(C(=C(C=C1)CNC(=O)C1=C(N=C(N1)C)C)F)OC1=CC(=CC(=C1)C#N)Cl | C20H15Cl2FN4O2
